Transient Analysis
* Simple R-C Network

V1 in 0 DC 1V
R1 in out 1k
R2 out 0 1k
C1 out 0 10nF

* DC Sweep Analysis
.DC V1 0 1 1m
.PLOT DC V(out)
.PLOT DC I(V1)    ; Plot current through voltage source
.PLOT DC I(R1)    ; Plot current through R1
.END