Trnasient Analysis
* Transient Analysis of R-C Network with Pulse Source

Vin in 0 PULSE(0 1 10u 10n 10n 10u 20u)
R1 in out 1k
R2 out 0 1k
C1 out 0 10nF

* Transient Analysis
.TRAN 100n 100u
.PLOT TRAN V(in) V(out)
.END