Trnasient Analysis
* Circuit Part
Vin in 0 PULSE(0 1 10u 10n 10n 10u 20u)
R1 in out 1k
R2 out 0 1k
C1 out 0 10nF


* Transient Analysis Part
.tran 1n 100u
.plot tran V(in) V(out)
.end